US09260441B2
Step A: tert-Butyl 4-(4-methylpyrimidin-2-yl)piperazine-1-carboxylate
Palladium acetate (45 mg, 0.2 mmol), BINAP (62 mg, 0.1 mmol) and cesium carbonate (650 mg, 2 mmol) were suspended in anhydrous 1,4-dioxane (3 ml) under an argon atmosphere and sonicated for 45 minutes. 2-Bromo-4-methylpyrimidine (173 mg, 1 mmol) and tert-butyl piperazine-1-carboxylate (208 mg, 1.3 mmol) were dissolved in 3 ml anhydrous 1,4-dioxane and the resulting solution was added to the catalyst-containing mixture. The resulting mixture was stirred at 110° C. overnight, afterwards diluted with ethyl acetate and filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was purified by column chromatography (silica, gradient from DCM to DCM/ethyl acetate 8/2) to yield 120 mg of a brown oil (0.43 mmol, 43%) MS (APCI) m/z=279.2 [M+1]+.

reactant | BINAP | 0.1 mmol, 62 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 2 mmol, 650 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Bromo-4-methylpyrimidine | 1 mmol, 173 mg | BrC1=NC=CC(=N1)C | C5H5BrN2
reactant | tert-butyl piperazine-1-carboxylate | 1.3 mmol, 208 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Palladium acetate | 0.2 mmol, 45 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-Butyl 4-(4-methylpyrimidin-2-yl)piperazine-1-carboxylate | 0.43 mmol, 120 mg, 43% | CC1=NC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
